* Schematics Netlist *



V_V1         $N_0001 0 DC 0V AC 1V 
C_C1         0 $N_0002  560p  
C_C2         $N_0002 $N_0003  15n  
R_R2         0 $N_0003  10k  
R_R3         $N_0001 $N_0002  10k  
