* Schematics Netlist *



T_T1         $N_0001 0 $N_0002 0 Z0=100 TD=10e-6  
V_V1         $N_0003 0 10V
R_R1         $N_0003 $N_0004  10  
R_R3         0 $N_0002  500  
X_U1         $N_0004 $N_0001 Sw_tClose PARAMS: tClose=1 ttran=1u Rclosed=0.01
+  Ropen=1Meg
