* Schematics Netlist *



V_V1         $N_0001 0 DC 0V AC 1V 
R_R1         $N_0001 $N_0002  500  
R_R3         0 $N_0003  500  
R_R4         0 $N_0004  500  
R_R2         0 $N_0005  500  
X_T1         $N_0002 $N_0003 $N_0005 $N_0004 T2coupled 
+ PARAMS: R=15 L=175n G=9u C=70p LM=17n CM=100p LEN=20
